US06809094B2
4-(6-CHLORO-5-NITRO-BENZOOXAZOL-2-YL)-1,4-DIAZA-BICYCLO[3.2.2]NONANE
The title compound was prepared from 6-chloro-2-methylsulfanyl-5-nitro-benzooxazole (prepared from 2-amino-5-chloro-4-nitrophenol by the methods described in Example 5 and Example 7) by the procedure described in Example 9 in 74% yield: 1H NMR (CDCl3, 400 MHz) δ 8.02 (d, 1H, J=2.1 Hz), 7.95 (d, 1H, J=2.1 Hz), 4.56-4.54 (m, 1H), 3.97 (t, 2H, J=5.8 Hz), 3.23-3.12 (m, 4H), 3.08-3.01 (m, 2H), 2.20-2.14 (m, 2H), 2.20-2.14(m, 2H), 1.91-1.83 (m, 2H); MS (Cl) m/z 323.1 (M+1). The hydrochloride salt was prepared by diluting in ethyl acetate and adding a 2.5 N HCl solution in ethyl acetate: mp=242.3 ° C.

reactant | 6-chloro-2-methylsulfanyl-5-nitro-benzooxazole | ClC1=CC2=C(N=C(O2)SC)C=C1[N+](=O)[O-] | C8H5ClN2O3S
reactant | 2-amino-5-chloro-4-nitrophenol | NC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)O | C6H5ClN2O3
reactant | HCl | 2.5 N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(6-CHLORO-5-NITRO-BENZOOXAZOL-2-YL)-1,4-DIAZA-BICYCLO[3.2.2]NONANE | 74% yield | ClC1=CC2=C(N=C(O2)N2CCN3CCC2CC3)C=C1[N+](=O)[O-] | C14H15ClN4O3
